US04065573
Following the procedure of Example 1, Part C, but substituting 44.7 gm. (0.174 mole) of 2-carbomethoxy-4-cyano-4-phenylcyclohexanone (prepared as in Part B, above) for the 29.8 gm. of the 2-carbomethoxy-4-(p-chlorophenyl)-4-cyanocyclohexanone and using 1200 ml. of the glacial acetic acid, and 600 ml. of the 10% aqueous sulfuric acid instead of the 660 ml. and the 330 ml., respectively, and finally recrystallizing the residual solid from a mixture of ethyl acetate and hexane, there is obtained 25.75 gm. (75% yield) of the desired 4-cyano-4-phenylcyclohexanone having a melting range from 112° to 115.5° C.

reactant | 2-carbomethoxy-4-cyano-4-phenylcyclohexanone | 0.174 mole | C(=O)(OC)C1C(CCC(C1)(C1=CC=CC=C1)C#N)=O | C15H15NO3
reactant | 2-carbomethoxy-4-(p-chlorophenyl)-4-cyanocyclohexanone | C(=O)(OC)C1C(CCC(C1)(C#N)C1=CC=C(C=C1)Cl)=O | C15H14ClNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-cyano-4-phenylcyclohexanone | 75% yield | C(#N)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H13NO
